US07432373B2
D) 4-Chloro-5-methylpyrrolo[2,1-f][1,2,4]triazin-6-yl pivalate
To a mixture of 5-methyl-4-oxo-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-6-yl pivalate (300 mg, 1.20 mmol), phosphorus oxychloride (368 mg mL, 2.4 mmol) and DIEA (0.5 mL, 2.80 mmol) was added acetonitrile (10 mL). The reaction was heated at 85-90° C. for 4 hours and then cooled to room temperature. The mixture was diluted with ethyl acetate (10 mL) and water (5 mL). The organic layer was separated and dried with sodium sulfate, concentrated in vacuo and purified by silica gel flash chromatography (eluted with 1-25% EtOAc/CH2Cl2) to give the title compound (250 mg, 78%) as a white solid.

reactant | 5-methyl-4-oxo-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-6-yl pivalate | 1.20 mmol, 300 mg | C(C(C)(C)C)(=O)OC=1C(=C2C(NC=NN2C1)=O)C | C12H15N3O3
reactant | phosphorus oxychloride | 2.4 mmol, 368 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DIEA | 2.80 mmol, 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 5 mL | O | H2O
product | 4-Chloro-5-methylpyrrolo[2,1-f][1,2,4]triazin-6-yl pivalate | 250 mg, 78% | C(C(C)(C)C)(=O)OC=1C(=C2C(=NC=NN2C1)Cl)C | C12H14ClN3O2
